* source AMP-PROTECTION
R_R1         N15689 N14768  22k TC=0,0 
R_R2         N15002 N14772  22k TC=0,0 
V_V1         N14677 0 50Vdc
V_V2         N14991 0  
+SIN 0V 35V 50Hz 0 0 0
D_D1         N14768 N14576 D1N4004 
D_D2         N14772 N14576 D1N4004 
R_R3         0 N14576  10k TC=0,0 
Q_Q1         N14693 N14576 0 MPSA42
R_R4         N14693 N14689  100 TC=0,0 
R_R5         N14689 N14677  100k TC=0,0 
C_C1         0 N14689  470n  TC=0,0 
V_V3         0 N14996  
+SIN 0V 35V 50Hz 0 0 0
Q_Q2         N150581 N14689 0 MPSA42
C_C2         0 N15218  22u  TC=0,0 
R_R6         N15218 N14677  220k TC=0,0 
R_R7         N150581 N15218  100 TC=0,0 
Q_Q3         N15571 N15218 N15575 MPSA42
D_D3         N15575 N15533 D1N4004 
D_D4         0 N15533 BZX84C15/ZTX 
R_R8         N15571 N14677  6.8k TC=0,0 
R_R9         N15533 N14677  47k TC=0,0 
X_U1         N14991 N15689 Sw_tOpen PARAMS: tOpen=4 ttran=1u Rclosed=0.01
+  Ropen=1Meg
X_U2         N14996 N15002 Sw_tOpen PARAMS: tOpen=4 ttran=1u Rclosed=0.01
+  Ropen=1Meg
Q_Q4         N15931 N15571 N14677 MPSA92
R_R10         N15888 N15931  100 TC=0,0 
X_U3         N15888 0 N16041 N16297 N16123 Relay_Spdt_Bhv_Bounce PARAMS:
+ T_make=20m
+ T_break=10m
+ T_bounce=5m
+ I_pull=35ma
+ I_drop=25ma
+ R_coil=100
+ L_coil=5mH
+ R_open=100MEG
+ R_close=.05
R_R11         0 N16041  47k TC=0,0 
V_V4         N16123 0 5Vdc
R_R12         0 N16297  47k TC=0,0 
